US05846982
6-chloro-3-(4-hydroxypiperidin-4-yl)-1H-indole
A mixture of 2.0 gm (13.2 mMol) 6-chloroindole and 4.06 gm (26.3 mMol) 4-piperidinone in 30 mL ethanol which contained 2.21 gm (39.6 mMol) potassium hydroxide was stirred at room temperature for 48 hours. Water (50 mL) was added dropwise to the reaction mixture over 30 minutes. The reaction mixture was allowed stir an additional 2 hours and the solid which formed was collected by filtration to provide a sticky orange solid. A portion of the solid was triturated with acetonitrile and filtered, washed with diethyl ether and dried under reduced pressure to provide 0.254 gm (7.4%) of the title compound as a colorless powder.

reactant | 6-chloroindole | 13.2 mMol, 2.0 gm | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | 4-piperidinone | 26.3 mMol, 4.06 gm | N1CCC(CC1)=O | C5H9NO
reactant | potassium hydroxide | 39.6 mMol, 2.21 gm | [OH-].[K+]
reactant | Water | 50 mL | O | H2O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 6-chloro-3-(4-hydroxypiperidin-4-yl)-1H-indole | 0.254 gm, 7.4% | ClC1=CC=C2C(=CNC2=C1)C1(CCNCC1)O | C13H15ClN2O
